US08222416B2
A solution of {2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-carbamic acid tert-butyl ester (520 mg, 1.05 mmol) in dichloromethane (10 mL) was treated with dry hydrogen chloride gas for 30 min. The resulting mixture was stirred for 3 h at room temperature. The solvent was removed to afford 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-ylamine hydrochloride salt (454 mg, 100%): LC/MS m/e calcd for C21H25N3O3S [M+H]+ 400.52, observed 400.0.

reactant | {2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-carbamic acid tert-butyl ester | 1.05 mmol, 520 mg | C(C)(C)(C)OC(NC=1C=C2C(=NC1)NC(=C2)C(CC2CCOCC2)C2=CC=C(C=C2)S(=O)(=O)C)=O | C26H33N3O5S
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-ylamine hydrochloride salt | 454 mg, 100% | Cl.CS(=O)(=O)C1=CC=C(C=C1)C(CC1CCOCC1)C1=CC=2C(=NC=C(C2)N)N1 | InChI=1S/C21H25N3O3S.ClH/c1-28(25,26)18-4-2-15(3-5-18)19(10-14-6-8-27-9-7-14)20-12-16-11-17(22)13-23-21(16)24-20;/h2-5,11-14,19H,6-10,22H2,1H3,(H,23,24);1H
